US05665718
2.35 ml (13.6 mmol) of N-ethyldiisopropylamine and 1.1 ml (10.2 mmol) of butyl bromide were added to a solution of 0.54 g (1.7 mmol) of 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one in 20 ml of dimethylformamide and the mixture was stirred at 70° for 1 hour. The reaction solution was subsequently evaporated, whereupon the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous phase was washed three times with methylene chloride. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 110:10:1). There were obtained 265 mg (36%) of 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one as a colourless foam, Rf=0.73 (silica gel, methylene chloride/methanol/aqueous ammonia 110:10:1).

reactant | N-ethyldiisopropylamine | 13.6 mmol, 2.35 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | butyl bromide | 10.2 mmol, 1.1 ml | C(CCC)Br | C4H9Br
reactant | 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 1.7 mmol, 0.54 g | NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C13H12N6O2S
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 265 mg, 36% | C(CCC)N(CCCC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C21H28N6O2S
